US07951810B2
Step b {(3aR,4R,6R,6aR)-6-[4-((S)-Indan-1-ylamino)-pyrrolo[2,3-d]pyrimdin-7-yl]-2,2-dimethyltetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-methanol
A solution of [(3aR,4R,6R,6aR)-6-(4-Chloro-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl]-methanol (574 mg, 1.76 mmol), diisopropylethylamine (1.2 mL, 7.04 mmol) and (S)-(+)-1-aminoindane (680 μL, 5.27 mmol) in n-butanol 3.3 mL) was divided into two portions and each portion was microwave irradiated at 190° C. for 900 s. The solvent was removed in vacuo and the combined crude portions were purified by silica gel chromatography (0 to 5% MeOH/CH2Cl2) to afford 460 mg (62% over two steps) of the title compound.

reactant | [(3aR,4R,6R,6aR)-6-(4-Chloro-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl]-methanol | 1.76 mmol, 574 mg | ClC=1C2=C(N=CN1)N(C=C2)[C@@H]2O[C@@H]([C@@H]1[C@H]2OC(O1)(C)C)CO | C14H16ClN3O4
reactant | diisopropylethylamine | 7.04 mmol, 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-(+)-1-aminoindane | 5.27 mmol, 680 μL | N[C@H]1CCC2=CC=CC=C12 | C9H11N
solvent | n-butanol | 3.3 mL | C(CCC)O | C4H10O
product | {(3aR,4R,6R,6aR)-6-[4-((S)-Indan-1-ylamino)-pyrrolo[2,3-d]pyrimdin-7-yl]-2,2-dimethyltetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-methanol | [C@@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@@H]2O[C@@H]([C@@H]1[C@H]2OC(O1)(C)C)CO | C23H26N4O4
